US08614237B2
6,7-dibromo-3-(3,5-difluoro-4-methoxybenzoyl)benzofuran-4,5-dione (SKI 417505)
To a solution of (6,7-dibromo-5-hydroxybenzofuran-3-yl)(3,5-difluoro-4-methoxyphenyl)methanone (30 mg, 0.065 mmol) in AcOH (1 mL) was added nitric acid—69% (20.03 μl, 0.325 mmol) at room temperature. The mixture was heated to 60° C. for 3 hours, cooled to room temperature, poured onto iced water and the suspension filtered. A red/orange solid was isolated which was dried under vacuum to afford the product (28 mg, 91%).

reactant | (6,7-dibromo-5-hydroxybenzofuran-3-yl)(3,5-difluoro-4-methoxyphenyl)methanone | 0.065 mmol, 30 mg | BrC1=C(C2=C(C(=CO2)C(=O)C2=CC(=C(C(=C2)F)OC)F)C=C1O)Br | C16H8Br2F2O4
reactant | nitric acid | 0.325 mmol, 20.03 μl | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 6,7-dibromo-3-(3,5-difluoro-4-methoxybenzoyl)benzofuran-4,5-dione | 28 mg, 91% | BrC1=C(C2=C(C(=CO2)C(C2=CC(=C(C(=C2)F)OC)F)=O)C(C1=O)=O)Br | C16H6Br2F2O5
